US07157487B2
To ethyl benzo(d)isoxazole-3-carboxylate (2.0 g, 10.5 mmol) was added 50 ml of 70% H2SO4. The mixture was heated at 80° C. for 4 hours. The reaction mixture was poured in ice, followed by extraction with ether. The extract was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent, whereby benzo(d)isoxazole-3-carboxylic acid (980 mg, 57%) was obtained as a colorless solid.

reactant | ethyl benzo(d)isoxazole-3-carboxylate | 10.5 mmol, 2.0 g | O1N=C(C2=C1C=CC=C2)C(=O)OCC | C10H9NO3
solvent | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
product | benzo(d)isoxazole-3-carboxylic acid | 980 mg, 57% | O1N=C(C2=C1C=CC=C2)C(=O)O | C8H5NO3
